US07534797B2
cis-N-{[3-(8-Amino-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl)cyclobutyl]methyl}methanesulfonamide
3-[3-(Aminomethyl)cyclobutyl]-1-(2-phenylquinolin-7-yl) imidazo[1,5-a]pyrazin-8-amine (0.17 mmol, 70 mg) was dissolved in DCM (4 mL), treated with DIEA (1 mmol, 0.742 mL) and then charged with methane sulfonic acid anhydride (0.2 mmol, 34.7 mg) portionwise. The reaction mixture was stirred at rt for 16 h. The reaction was quenched with water (5 mL), diluted with methylene chloride (30 mL), washed with saturated sodium bicarbonate (40 mL) and brine (40 mL), and dried (Na2SO4). The crude product was purified by MDP (acidic conditions). The purified product was dissolved in DCM and washed with saturated aq NaHCO3 and brine. The organic layer was dried (Na2SO4) and concentrated under reduced pressure, yielding the title compound as a light yellow solid; 1H NMR (400 MHz, CDCl3) δ 8.42-8.41 (m, 1H), 8.26 (d, J=8.0 Hz, 1H), 8.20-8.18 (m, 2H), 7.96-7.91 (m, 3H), 7.56-7.48 (m, 3H), 7.11-7.08 (m, 2H), 5.35 (b, 2H), 3.71-3.67 (m, 1H), 3.25 (d, J=6.4 Hz, 1H), 2.94 (s, 3H), 2.75-2.63 (m, 3H), 2.39-2.33 (m, 3H); MS (ES+): m/z 499 [MH+]; HPLC: tR=2.11 min (OpenLynx, polar—5 min).

reactant | 3-[3-(Aminomethyl)cyclobutyl]-1-(2-phenylquinolin-7-yl) imidazo[1,5-a]pyrazin-8-amine | 0.17 mmol, 70 mg | NCC1CC(C1)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C26H24N6
reactant | DIEA | 1 mmol, 0.742 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methane sulfonic acid anhydride | 0.2 mmol, 34.7 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | cis-N-{[3-(8-Amino-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl)cyclobutyl]methyl}methanesulfonamide | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@H]2C[C@H](C2)CNS(=O)(=O)C | C27H26N6O2S
